data/mechanism_extracts/Synlett/10.1055_s-0041-1738439.json
{"doi": "10.1055_s-0041-1738439", "journal": "Synlett", "is_review": false, "rxn_class_summary": "Nickel-catalyzed electrochemical reductive cyclizative carboxylation of alkene-tethered carbamoyl chlorides with atmospheric CO2 to give 2-oxoindolin-3-ylacetic acids and 2-oxotetrahydroquinoline-4-carboxylic acids", "mechanism_family": ["electrocatalysis_inner_sphere", "sacrificial_anode", "mediator_cathodic"], "electrochemical_role": "Cathodic reduction of NiCl2(bpp) to Ni(0), which performs oxidative addition into the C(acyl)-Cl bond; further single-electron cathodic reductions turn over the Ni catalyst across the cycle. Mg sacrificial anode balances charge.", "key_intermediates": [{"name": "Ni(0)(bpp) active catalyst", "smiles": null, "role": "reactive"}, {"name": "Ni(II)-acyl chloride intermediate A from oxidative addition of carbamoyl chloride 1a", "smiles": null, "role": "reactive"}, {"name": "Ni(I)-acyl intermediate B (from SET reduction of A, path a)", "smiles": null, "role": "transient"}, {"name": "Ni(II) cyclized alkyl intermediates C/C' (intramolecular alkene migratory insertion, path b)", "smiles": null, "role": "transient"}, {"name": "Ni(I) cyclized alkyl intermediates D/D' after SET reduction", "smiles": null, "role": "reactive"}, {"name": "Ni-carboxylate intermediates E/E' after CO2 insertion into Ni-C bond", "smiles": null, "role": "reactive"}, {"name": "2-oxoindolin-3-ylacetic acid 2a (product after acidic workup)", "smiles": "O=C(O)CC1(C)C(=O)N(Cc2ccccc2)c2ccccc21", "role": "reactive"}, {"name": "1-benzyl-4-methyl-2-oxo-tetrahydroquinoline-4-carboxylic acid 3a (product)", "smiles": "O=C(O)C1(C)CC(=O)N(Cc2ccccc2)c2ccccc21", "role": "reactive"}], "electron_flow": "Cathode reduces NiCl2(bpp) to Ni(0); Ni(0) does oxidative addition into the carbamoyl C-Cl bond of 1 to give Ni(II) acyl A. A is reduced at the cathode (path a: SET first to Ni(I) B, then alkene cyclization to D/D'; path b: alkene cyclization first to Ni(II) C/C', then SET to D/D'). CO2 inserts into the Ni-C bond to give carboxylate E/E'; a final cathodic reduction releases Ni(0) and, after aqueous workup, the carboxylic acid product. Mg anode is sacrificially oxidized.", "rate_determining_step": null, "probe_reagents": [{"name": "Cyclic voltammetry of NiCl2(bpp), 1a, and CO2", "smiles": null, "purpose": "redox_probe", "observation": "NiCl2(bpp) shows two reversible reductive peaks at -1.71 V and -2.31 V (Ni(II)->Ni(I)->Ni(0)); adding 1a produces strong catalytic current near -2.50 V indicating oxidative addition with in situ Ni(0); saturating with CO2 further increases the reductive current, consistent with carboxylation turnover."}], "evidence_types_used": ["cyclic_voltammetry"], "evidence_strength": "weak", "notes": "Two cyclization pathways are proposed and considered competitive: path a (SET reduction of Ni(II) acyl A to Ni(I) B before alkene migratory insertion) and path b (alkene insertion first to give Ni(II) C/C', then SET to D/D'). The paper does not designate one as strictly favored; both converge on D/D' prior to CO2 insertion. Substrate scope shows ortho/meta/para electronic effects and poor performance with aryl chloride/bromide substituents on the arene (competing reactivity), and 1n (bromo on indoline-forming arene) gives no carboxylation product, consistent with competing Ni insertion into the Ar-Br bond."}
